US07354917B2
(i) N-[2-(4-Cyanophenoxy)ethyl]-N-(2-hydroxyethyl)urea
To a solution of 4-[2-(2-hydroxyethylamino)ethoxy]benzonitrile (5 g, 0.0242 mol; see Preparation C(ii) above) in dioxane (65 mL) and water (65 mL) was added, at rt, potassium cyanate (4.92 g, 0.0606 mol), followed by acetic acid (4.36 g, 0.0726 mol). The reaction mixture was then stirred at rt overnight, before being concentrated under reduced pressure. The resulting residue was partitioned between water and dichloromethane. The organic layer was separated, washed with water and brine, dried over sodium sulfate and then concentrated. The crude product was further purified by column chromatography. Yield: 3.5 g.

reactant | 4-[2-(2-hydroxyethylamino)ethoxy]benzonitrile | 0.0242 mol, 5 g | OCCNCCOC1=CC=C(C#N)C=C1 | C11H14N2O2
reactant | potassium cyanate | 0.0606 mol, 4.92 g | [O-]C#N.[K+]
reactant | acetic acid | 0.0726 mol, 4.36 g | C(C)(=O)O | C2H4O2
solvent | dioxane | 65 mL | O1CCOCC1 | C4H8O2
solvent | water | 65 mL | O | H2O
product | N-[2-(4-Cyanophenoxy)ethyl]-N-(2-hydroxyethyl)urea | C(#N)C1=CC=C(OCCN(C(=O)N)CCO)C=C1 | C12H15N3O3
